US07326791B2
rac.-N-[2-(3-bromophenyl)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid, TBTU, diisopropylethylamine, and rac.-2-(3-bromophenyl)-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine in tetrahydrofuran. Yield: %; Rf value: 0.52 (silica gel: dichloromethane/ethanol=9:1); C28H26BrClN4O2 (565.90); mass spectrum: (M+H)+=565/567/569 (bromo-chlorine isotope).

reactant | 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid | CC=1C=C(C(=O)O)C=CC1C(=O)N1CCCC1 | C13H15NO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | rac.-2-(3-bromophenyl)-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine | BrC=1C=C(C=CC1)CC(C1=NC2=C(N1)C=CC(=C2)Cl)N | C15H13BrClN3
reactant | bromo-chlorine | BrCl | BrCl
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | rac.-N-[2-(3-bromophenyl)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | BrC=1C=C(C=CC1)CC(C1=NC2=C(N1)C=CC(=C2)Cl)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O | C28H26BrClN4O2
